US06762197B2
2.5 g (12.6 mmol) of diphosgene, 0.40 g of activated carbon and 30 ml of toluene were mixed, and allowed to left overnight, and to this solution was slowly dropped at room temperature a solution prepared by dissolving 1.00 g (5.07 mmol) of 2-methyl-5-phenylbenzylamine (produced in the same manner as in Intermediate Production Example 6) in 5 ml of toluene. The reaction mixture turned to white suspension directly after the dropping. The white suspension was stirred at room temperature for 1 hour, further stirred for 5 hours under reflux with heating, then, concentrated under reduced pressure to obtain 1.13 g of 2-methyl-5-phenybenzyl isocyanate.

reactant | diphosgene | 12.6 mmol, 2.5 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-methyl-5-phenylbenzylamine | 5.07 mmol, 1.00 g | CC1=C(CN)C=C(C=C1)C1=CC=CC=C1 | C14H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-phenybenzyl isocyanate | 1.13 g | CC1=C(CN=C=O)C=C(C=C1)C1=CC=CC=C1 | C15H13NO
